US07645771B2
1-(Tert-butoxycarbonyl)piperidine-4-carboxylic acid (2.29 g, 0.010 mmol) was treated with 1,1′-carbonyldiimidazole (1.62 g, 0.010 mmol) in DMF (5 mL) at ambient temperature for 30 min. Following this activation period, the crude (1Z)-N′-hydroxy-2-pyridin-3-ylethanimidamide (0.010 mmol) was added and the reaction mixture heated at 70° C. for 6 h followed by 120° C. for an additional 6 h. The reaction mixture was cooled and partitioned between EtOAc and water. The organic phase was separated, washed successively with saturated NaHCO3 and brine, dried over MgSO4, filtered and concentrated to give tert-butyl 4-[3-(pyridin-3-ylmethyl)-1,2,4-oxadiazol-5-yl]piperidine-1-carboxylate. 1H NMR (300 MHz, CDCl3) δ 8.61 (s, 1H), 8.53 (m, 1H), 7.67 (d, 1H, J=7.7 Hz), 7.28 (m, 1H), 4.20-4.05 (m, 2H), 4.08 (s, 2H), 3.08 (m, 1H), 2.94 (m, 2H), 2.04 (m, 2H), 1.87-1.73 (m, 2H), 1.47 (s, 9H). ES-LCMS m/z 367.36 (M+Na).

reactant | 1-(Tert-butoxycarbonyl)piperidine-4-carboxylic acid | 0.010 mmol, 2.29 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(=O)O | C11H19NO4
reactant | 1,1′-carbonyldiimidazole | 0.010 mmol, 1.62 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (1Z)-N′-hydroxy-2-pyridin-3-ylethanimidamide | 0.010 mmol | O\N=C(\CC=1C=NC=CC1)/N | C7H9N3O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | tert-butyl 4-[3-(pyridin-3-ylmethyl)-1,2,4-oxadiazol-5-yl]piperidine-1-carboxylate | N1=CC(=CC=C1)CC1=NOC(=N1)C1CCN(CC1)C(=O)OC(C)(C)C | C18H24N4O3
